US05817693
d) (1RS,2SR,3RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
To a solution of ethyl(1RS,2RS,3RS)-1-(2-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylate (90 mg, 0.22 mmol) in EtOH (2 ml) containing a few drops of THF was added 6M KOH (0.22 ml, 1.32 mmol). The resulting mixture was allowed to stir at room temperature overnight, then was concentrated under reduced pressure. The residue was partitioned between H2O and Et2O. The aqueous phase was acidified with 3M HCl and extracted with EtOAc. The EtOAc extract was washed successively with H2O and saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo to afford the title compound (40 mg, 49%).

reactant | ethyl(1RS,2RS,3RS)-1-(2-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylate | 0.22 mmol, 90 mg | COC1=C(C=CC=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H24O5
reactant | KOH | 1.32 mmol, 6M, 0.22 ml | [OH-].[K+]
solvent | EtOH | 2 ml | CCO | C2H6O
catalyst | THF | a few drops | C1CCOC1 | C4H8O
product | (1RS,2SR,3RS)-1-(2-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | 40 mg, 49% | COC1=C(C=CC=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
